US07109229B2
(a) (1-Methyl-1H-indol-7-yl)-oxo-acetic acid methyl ester
A solution of 1-methyl-7-bromoindole (1.53 g, 7.29 mmol) in THF (50 mL) was cooled to −78° C. and a 1.7 M solution of tBuLi in pentanes (10 mL, 17 mmol) added dropwise over 10 min. After 15 min, the resultant bright yellow suspension was transferred over 15 min via a cannula cooled with dry ice to a solution of dimethyl oxalate (2.13 g., 18.1 mmol) in THF (40 mL) maintained at −78° C. After 15 min, the mixture was allowed to warm to room temperature and stirred 4 h. The cloudy yellow mixture was treated with pH 7.0 buffer, poured into EtOAc and the EtOAc washed with pH 7.0 buffer, saturated aq NaHCO3, brine, dried (MgSO4) and concentrated to a cloudy oil. Flash chromatography (10% EtOAc/hexanes) afforded the title compound (896 mg, 57%) as a bright yellow oil. 1H NMR (400 MHz, DMSO-d6) 7.97 (d, J=8 Hz, 1H), 7.58 (d, J=8 Hz, 1H), 7.48 (d, J=3 Hz, 1H), 7.20 (dd, J=8 Hz, 1H), 6.66 (d, J=3 Hz, 1H), 3.95 (s, 3H), 3.79 (s, 3H). 13C (75.5 MHz, DMSO-d6) 185.80, 164.31, 133.64, 133.02, 131.23, 128.07, 127.04, 118.77, 118.25, 102.15, 53.01, 37.49. IR (CHCl3, cm−1) 1739, 1678. Anal. Calcd for C12H11NO3: C, 66.35; H, 5.10; N, 6.45. Found: C, 66.48; H, 5.23; N, 6.51.

reactant | 1-methyl-7-bromoindole | 7.29 mmol, 1.53 g | CN1C=CC2=CC=CC(=C12)Br | C9H8BrN
reactant | tBuLi | [Li]C(C)(C)C
reactant | dry ice | C(=O)=O | CO2
reactant | dimethyl oxalate | 18.1 mmol, 2.13 g | C(C(=O)OC)(=O)OC | C4H6O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (1-Methyl-1H-indol-7-yl)-oxo-acetic acid methyl ester | 896 mg, 57% | COC(C(=O)C=1C=CC=C2C=CN(C12)C)=O | C12H11NO3
